US07491720B2
(2) Synthesis of 1-(2-fluoro-3-(trifluoromethyl)benzoyl)piperazine hydrochloride
To a mixture of 7.74 g of tert-butyl 4-(2-fluoro-3-(trifluoromethyl)benzoyl)piperazine-1-carboxylate and 10 ml of methanol was added a hydrochloric acid-1,4-dioxane solution (4 M, 20 ml) followed by stirring at room temperature for 4 hours. The reaction mixture was concentrated in vacuo to give the title compound.

reactant | tert-butyl 4-(2-fluoro-3-(trifluoromethyl)benzoyl)piperazine-1-carboxylate | 7.74 g | FC1=C(C(=O)N2CCN(CC2)C(=O)OC(C)(C)C)C=CC=C1C(F)(F)F | C17H20F4N2O3
reactant | hydrochloric acid 1,4-dioxane | 4 M, 20 ml | Cl.O1CCOCC1
solvent | methanol | 10 ml | CO | CH4O
product | 1-(2-fluoro-3-(trifluoromethyl)benzoyl)piperazine hydrochloride | Cl.FC1=C(C(=O)N2CCNCC2)C=CC=C1C(F)(F)F | InChI=1S/C12H12F4N2O.ClH/c13-10-8(2-1-3-9(10)12(14,15)16)11(19)18-6-4-17-5-7-18;/h1-3,17H,4-7H2;1H
